US07405221B2
2-Methylthio-4-(4-chlorophenyl)-5-(2,4-dichlorophenyl)pyrimidine from Reference Example 3 was reacted with 3-chlorobenzyl alcohol according to the procedure described in Example 59 to afford 2-(3-chlorobenzyloxy)-4-(4-chlorophenyl)-5-(2,4-dichlorophenyl)pyrimidine (HRf): HPLC/MS: m/e=475 (M++1); Rt=4.92 min; 1H-NMR 400 MHz (CDCl3): δ 5.58 (s, 2H), 7.15 (d, J=9 Hz, 1H), 7.25-7.38 (m, 7H), 7.40-7.50 (m, 2H), 7.58 (s, 1H), 8.48 (s, 1H).

reactant | 2-Methylthio-4-(4-chlorophenyl)-5-(2,4-dichlorophenyl)pyrimidine | CSC1=NC=C(C(=N1)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C17H11Cl3N2S
reactant | 3-chlorobenzyl alcohol | ClC=1C=C(CO)C=CC1 | C7H7ClO
product | 2-(3-chlorobenzyloxy)-4-(4-chlorophenyl)-5-(2,4-dichlorophenyl)pyrimidine | ClC=1C=C(COC2=NC=C(C(=N2)C2=CC=C(C=C2)Cl)C2=C(C=C(C=C2)Cl)Cl)C=CC1 | C23H14Cl4N2O
